US05945382
2.13 g (0.01 mol) of 3-(3,5-dichlorophenyl)pyrazole are dissolved, at room temperature and with stirring, in 50 ml of dichloromethane. 2.5 g (0.011 mol) of n-iodosuccinimide are then added and stirring is then continued for 4 days. The reaction mixture is then concentrated, the solid obtained is washed with heptane and boiled in 100 ml of 1N sodium hydroxide. After cooling, the solid is filtered, washed with water and dried to give 2 g (yield 59%, melting point: 170° C.) of 4-iodo-3-(3,5-dichlorophenyl)pyrazole.

reactant | 3-(3,5-dichlorophenyl)pyrazole | 0.01 mol, 2.13 g | ClC=1C=C(C=C(C1)Cl)C1=NNC=C1 | C9H6Cl2N2
reactant | n-iodosuccinimide | 0.011 mol, 2.5 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-iodo-3-(3,5-dichlorophenyl)pyrazole | 2 g, yield 59% | IC=1C(=NNC1)C1=CC(=CC(=C1)Cl)Cl | C9H5Cl2IN2
